US08426473B2
Step A: {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic acid ethyl ester
The title product was prepared from [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic acid ethyl ester (400 mg; 0.86 mmol) and 4-prop-2-ynyl-morpholine

reactant | [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic acid ethyl ester | 0.86 mmol, 400 mg | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)OCC(C)C)Br)C)=O | C22H27BrO4S
reactant | 4-prop-2-ynyl-morpholine | C(C#C)N1CCOCC1 | C7H11NO
product | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(C)C)C)=O | C29H37NO5S
